US04904675
5-Carboxy-2-(4,5-dihydro-2-thiazolyl)-pyridine
Sodium (11 mmol) is added to a flask containing 75 ml of ethanol. As soon as the sodium has dissolved, 10 mmol of 5-carboxy-2-cyanopyridine and 11 mmol of 2-amino-ethanethiol are added and the solution is refluxed for 24 h. The solution is then diluted with 25 ml of water, made acidic (pH=5) with 2N HCl and evaporated. The residue is dissolved in 100 ml of hot chloroform, the salts are filtered off and the filtrate on cooling gives crystals of the title compound, m.p. 234°-235° C.

reactant | Sodium | 11 mmol | [Na] | Na
reactant | 5-carboxy-2-cyanopyridine | 10 mmol | C(=O)(O)C=1C=CC(=NC1)C#N | C7H4N2O2
reactant | 2-amino-ethanethiol | 11 mmol | NCCS | C2H7NS
reactant | HCl | 2N | Cl | ClH
solvent | water | 25 ml | O | H2O
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 5-Carboxy-2-(4,5-dihydro-2-thiazolyl)-pyridine | C(=O)(O)C=1C=CC(=NC1)C=1SCCN1 | C9H8N2O2S
